US06982278B2
A solution of 2-(4-{2-[2-(4-cyclohexyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (0.339 g, 0.667 mmol) in ethanol (40 mL) was treated with 5 N NaOH (0.8 mL) and the reaction heated to reflux for 1 h. The reaction mixture was cooled and the solvent removed in vacuo. The resultant oil was acidified with 1 N HCl and extracted with EtOAc and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to afford 0.304 g (95%) of 2-(4-{2-[2-(4-cyclohexyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid. 1H NMR (500 MHz, CDCl3) δ 7.94-7.85 (m, 2H), 6.89-6.73 (m, 4H), 6.71 (d, 2H, J=9.28 Hz), 4.30-4.23 (m, 1H), 4.14-4.05 (m, 2H), 2.95-2.85 (m, 2H), 2.29 (s, 3H), 1.98-1.85 (m, 2H), 1.80-1.75 (m, 2H), 1.58-1.40 (m, 8H), 1.38-1.20 (m, 4H); HRMS (ES+) m/z exact mass calcd for C28H34NO6 480.2386, found 480.2381The following compound was prepared using tetrahydro-2H-pyran-4-ol:

reactant | 2-(4-{2-[2-(4-cyclohexyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.667 mmol, 0.339 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC1CCCCC1)=O | C30H37NO6
reactant | NaOH | 5 N, 0.8 mL | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-(4-{2-[2-(4-cyclohexyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid | 0.304 g, 95% | C1(CCCCC1)OC1=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C | C28H33NO6
